US09340547B2
c) (S)-tert-Butyl 1-(4-fluoro-2-(phenylcarbamoyl)-1H-pyrrol-1-ylamino)-1-oxopropan-2-ylcarbamate
The title compound was prepared from 1-amino-4-fluoro-N-phenyl-1H-pyrrole-2-carboxamide (0.95 g, 3.6 mmol) and (S)-2-(tert-butoxycarbonylamino)propanoic acid following the experimental procedure described in Preparation 47b. 1.28 g (91% yield) of the desired compound were obtained.

reactant | 1-amino-4-fluoro-N-phenyl-1H-pyrrole-2-carboxamide | 3.6 mmol, 0.95 g | NN1C(=CC(=C1)F)C(=O)NC1=CC=CC=C1 | C11H10FN3O
reactant | (S)-2-(tert-butoxycarbonylamino)propanoic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C | C8H15NO4
product | (S)-tert-Butyl 1-(4-fluoro-2-(phenylcarbamoyl)-1H-pyrrol-1-ylamino)-1-oxopropan-2-ylcarbamate | 1.28 g, 91% yield | FC=1C=C(N(C1)NC([C@H](C)NC(OC(C)(C)C)=O)=O)C(NC1=CC=CC=C1)=O | C19H23FN4O4
